### PR TITLE
[Merged by Bors] - feat(RingTheory/IsTensorProduct): add `IsPushout.cancelBaseChange`

### PR DESCRIPTION
**Pull request by chrisflav**
This is a cancel-on-the-left version of `AlgebraTensorModule.cancelBaseChange`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IsTensorProduct.lean [hunk 1]
```diff
@@ -591,4 +591,53 @@ lemma Algebra.IsPushout.of_equiv [h : IsPushout R R' S S']
...
+@[simp]
+lemma IsPushout.cancelBaseChangeAux_symm_tmul (s : S) (m : M) :
+    (IsPushout.cancelBaseChangeAux R S A B M).symm (s ⊗ₜ m) = algebraMap S B s ⊗ₜ m := by
+  simp [IsPushout.cancelBaseChangeAux, IsPushout.equiv_tmul]
+
+/-- If `B = S ⊗[R] A`, this is the canonical `S`-isomorphism: `B ⊗[A] M ≃ₗ[S] S ⊗[R] M`.
+This is the cancelling on the left version of
+`TensorProduct.AlgebraTensorModule.cancelBaseChange`. -/
+noncomputable
+def IsPushout.cancelBaseChange [SMulCommClass A S B] : B ⊗[A] M ≃ₗ[S] S ⊗[R] M :=
```
Comment (erdOne) [inline Mathlib/RingTheory/IsTensorProduct.lean]: Is `SMulCommClass` actually necessary? Does the following help?
```
example {R S A : Type*} [CommSemiring R] [CommSemiring S] [Semiring A] [Algebra R A] [Algebra S A] : 
    SMulCommClass R S A where
      smul_comm r s a := by rw [Algebra.smul_def, mul_smul_comm, ← Algebra.smul_def]
```

**Comment by erdOne** [comment]
It looks a bit too generic to be a global instance. Maybe bench?

**Comment by chrisflav** [comment]
I was about to do that.

**Comment by ghost** [comment]
!bench

**Comment by chrisflav** [comment]
I think the benchmark looks fine, but I had to fix some plain looping `simp [smul_comm]` by specifying more arguments. Not sure if this is sufficiently bad to revert?

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
